US08809525B2
6-(3,5-dichlorophenyl)-5-(4-fluorophenyl)-1,2,4-triazin-3-amine (0.11 g, 17.6%) was prepared from 6-Bromo-5-(4-fluorophenyl)-1,2,4-triazin-3-amine (0.5 g, 1.18 mmol) and 3,5-dichloro phenylboronic acid (0.47 mg, 2.4 mmol) according to the general procedure of Example 1.

reactant | 6-Bromo-5-(4-fluorophenyl)-1,2,4-triazin-3-amine | 1.18 mmol, 0.5 g | BrC1=C(N=C(N=N1)N)C1=CC=C(C=C1)F | C9H6BrFN4
reactant | 3,5-dichloro phenylboronic acid | 2.4 mmol, 0.47 mg | ClC=1C=C(C=C(C1)Cl)B(O)O | C6H5BCl2O2
product | 6-(3,5-dichlorophenyl)-5-(4-fluorophenyl)-1,2,4-triazin-3-amine | 0.11 g, 17.6% | ClC=1C=C(C=C(C1)Cl)C1=C(N=C(N=N1)N)C1=CC=C(C=C1)F | C15H9Cl2FN4
